US04977272
0.35 mol diphosgene is added dropwise over 1 hour to a mixture of 0.28 mol of phenylalanine allyl ester, prepared as described by H. Waldmann and H. Kunz in Liebigs Ann. Chem., 1983, 1712-1725, and 0.4 g activated charcoal in 400 mL dioxane under N2. The reaction mixture is then heated and stirred at reflux for 21/2 hours. The reaction mixture is then cooled, filtered, and concentrated to dryness by rotary evaporator, keeping exposure to moisture to a minimum. The crude product is re-dissolved in 100 mL THF, and the pH of the solution is adjusted to 5.5-6.0 by addition of pyridine. The product mixture is again filtered, and the product is purified by fractional distillation to give phenylalanine allyl ester isocyanate.

reactant | diphosgene | 0.35 mol | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | phenylalanine allyl ester | 0.28 mol | C(C=C)OC([C@@H](N)CC1=CC=CC=C1)=O | C12H15NO2
reactant | charcoal | C | CH4
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | phenylalanine allyl ester isocyanate | [N-]=C=O.C(C=C)OC([C@@H](N)CC1=CC=CC=C1)=O | InChI=1S/C12H15NO2.CNO/c1-2-8-15-12(14)11(13)9-10-6-4-3-5-7-10;2-1-3/h2-7,11H,1,8-9,13H2;/q;-1/t11-;/m0./s1
